US03954764
17 G. of 3,10-dichloro-7-fluoro-10,11-dihydro-dibenzo[b,f]thiepin are treated with 45.5 g. of 3-[2-(1-piperazinyl)-ethyl]-2-oxazolidinone and stirred at 120°-130°C. (internal temperature) for 8 minutes. The mixture is treated with 2N sodium hydroxide and extracted with ether. The ether solution is washed to neutrality and shaken out with dilute methanesulfonic acid. The acid solution is made alkaline with sodium hydroxide and extracted with methylene chloride. The organic solution is washed with water and dried over magnesium sulfate. The residue is recrystallized from acetone, whereby there is obtained 3-{2-[4-(3-chloro-7-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone (melting point 168°-170°C.) which is converted into the dimethanesulfonate (melting point 191°-193°C.) by reaction with methanesulfonic acid.

reactant | 3,10-dichloro-7-fluoro-10,11-dihydro-dibenzo[b,f]thiepin | ClC=1C=CC2=C(SC3=C(C(C2)Cl)C=CC(=C3)F)C1 | C14H9Cl2FS
reactant | 3-[2-(1-piperazinyl)-ethyl]-2-oxazolidinone | N1(CCNCC1)CCN1C(OCC1)=O | C9H17N3O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | 3-{2-[4-(3-chloro-7-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone | ClC=1C=CC2=C(SC3=C(C(C2)N2CCN(CC2)CCN2C(OCC2)=O)C=CC(=C3)F)C1 | C23H25ClFN3O2S
